US09403801B2
Step 1) tert-butyl 9-((5-chloro-2-((1-(2-hydroxyethyl)-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate
To a solution of tert-butyl 3-[(2,5-dichloropyrimidin-4-yl)amino]-9-azaspiro[5.5]undecane-9-carboxylate (501.5 mg, 1.21 mmol) and 2-(4-aminopyrazol-1-yl)ethanol (306.5 mg, 2.411 mmol) in propan-2-ol (6 mL) was added a solution of HCl in EtOAc (1 mL, 4 mmol). The mixture stirred in a sealed tube under the microwave radiation at 140° C. for 1 h and then concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/100 to 1/20 to 1/7) to give the product as a light yellow solid (500.0 mg, 0.9881 mmol, 81.85%).

reactant | tert-butyl 3-[(2,5-dichloropyrimidin-4-yl)amino]-9-azaspiro[5.5]undecane-9-carboxylate | 1.21 mmol, 501.5 mg | ClC1=NC=C(C(=N1)NC1CCC2(CC1)CCN(CC2)C(=O)OC(C)(C)C)Cl | C19H28Cl2N4O2
reactant | 2-(4-aminopyrazol-1-yl)ethanol | 2.411 mmol, 306.5 mg | NC=1C=NN(C1)CCO | C5H9N3O
reactant | HCl | Cl | ClH
reactant | EtOAc | 4 mmol, 1 mL | CCOC(=O)C | C4H8O2
solvent | propan-2-ol | 6 mL | CC(C)O | C3H8O
product | tert-butyl 9-((5-chloro-2-((1-(2-hydroxyethyl)-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 0.9881 mmol, 500.0 mg, 81.85% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)CCO)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C24H36ClN7O3
